US05412117
A mixture of 7.0 g of N,2,2-trimethyl-3,4-dihydro-3-hydroxy-6-nitro-2H-1-benzopyran-4-carbothioamide, 3.0 g of p-toluenesulfonic acid monohydrate, and 300 ml of toluene was heated at reflux for 1 hour. The solvent was removed from the reaction mixture by distillation, and the residue was purified by silica gel column chromatography (developing solution: CH2Cl2). Recrystallizatlon from a mixed solvent of CH2Cl2, diethyl ether, and hexane gave 3.25 g of N,2,2-trimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide represented by formula shown below.

reactant | N,2,2-trimethyl-3,4-dihydro-3-hydroxy-6-nitro-2H-1-benzopyran-4-carbothioamide | 7.0 g | CNC(=S)C1C(C(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C)O | C13H16N2O4S
reactant | p-toluenesulfonic acid monohydrate | 3.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N,2,2-trimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 3.25 g | CNC(=S)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C13H14N2O3S
